US07414045B2
Step 6: N-(4-fluorobenzyl)-3-hydroxy-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxamide
To a solution of crude mixture of Methyl 3-(benzoyloxy)-4-oxo-6,7,8,9-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxylate and 4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidin-3-yl benzoate (ratio 6:1) in dry methanol, 3 eq. of 4-fluoro-benzylamine were added. The mixture was irradiated in a microwave apparatus (140° C., 500 sec). After cooling the solvent was removed under reduced pressure. The product was isolated by preparative RP-HPLC (Symmetry Column C18, 5 μm, 19×300 mm, gradient of CH3CN/H2O+0.01% TFA). The pooled product fractions were lyophilized to afford the title compound.

reactant | 4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1=CN=C2N(C1=O)CCC2 | C14H12N2O3
reactant | 4-fluoro-benzylamine | 3 eq. | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | methanol | CO | CH4O
product | N-(4-fluorobenzyl)-3-hydroxy-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)CCC3)C=C1 | C15H14FN3O3
